US05639752
5-Amino-3-(N-methylpyrrolidin-3-yl)-1H-indole
A mixture of 5-benzylamino-3-(N-methylpyrrolidin-3-yl)-1H-indole (7.80 g, 25.5 mmol), ammonium formate (16.10 g, 255 mmol, 10 eq), and 10% Pd on carbon (0.78 g) in absolute ethanol (250 mL) was heated at reflux under nitrogen for 1 hour. The reaction was filtered, and filtrate evaporated under reduced pressure. The residual oil was column chromatographed using silica gel (approximately 200 g) and elution with 0.3% triethylamine in methanol to afford the title compound (0.90 g, 16%) as a pale yellow oil: 1H NMR (CD3OD) δ7.13 (d, J=8.5 Hz, 1H), 6.94 (br s, 2H), 6.65 (dd, J=2.0 and 8.5 Hz, 1H), 4.91 (s, 2-NH), 3.66-3.50 (m, 1H), 3.17-3.08 (br t, 1H), 2.96-2.85 (m, 1H), 2.67-2.50 (m, 2H), 2.40 (s, 3H), 2.37-2.24 (m, 1H), 2.08-1.93 (m, 1H); FAB LRMS (m/z, relative intensity) 216 (MH+, 100).

reactant | 5-benzylamino-3-(N-methylpyrrolidin-3-yl)-1H-indole | 25.5 mmol, 7.80 g | C(C1=CC=CC=C1)NC=1C=C2C(=CNC2=CC1)C1CN(CC1)C | C20H23N3
reactant | ammonium formate | 255 mmol, 16.10 g, 10 eq | C(=O)[O-].[NH4+]
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | Pd on carbon | 0.78 g | [Pd] | Pd
product | 5-Amino-3-(N-methylpyrrolidin-3-yl)-1H-indole | 0.90 g, 16% | NC=1C=C2C(=CNC2=CC1)C1CN(CC1)C | C13H17N3
